US08497368B2
6-[1-(6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-cyclopropyl]-quinoline (50.3)
A microwave tube was charged with 1-quinolin-6-yl-cyclopropanecarboxylic acid hydrazide (513 mg, 2.26 mmol), 3,6-dichloropyridazine (437 mg, 2.93 mmol) and n-butanol (5 mL). The mixture was heated at 140° C. for 12 h. The solvent was removed in vacuo and the residue was purified by flash chromatography in silica gel eluting with ETOAC/methanol gradient to afford 196 mg (41%) of the title compound. LCMS (method A): [MH]+=322, tR=4.38 min.

reactant | 1-quinolin-6-yl-cyclopropanecarboxylic acid hydrazide | 2.26 mmol, 513 mg | N1=CC=CC2=CC(=CC=C12)C1(CC1)C(=O)NN | C13H13N3O
reactant | 3,6-dichloropyridazine | 2.93 mmol, 437 mg | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | n-butanol | 5 mL | C(CCC)O | C4H10O
product | 6-[1-(6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-cyclopropyl]-quinoline | 196 mg, 41% | ClC=1C=CC=2N(N1)C(=NN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C17H12ClN5
